US08067445B2
Step 1: (2′-{[Benzyloxycarbonyl-(2,2,2-trifluoro-ethyl)-amino]-methyl}-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
{6-Fluoro-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}acetic acid methyl ester (0.26 g, 0.62 mmol), benzyl chloroformate (0.13 mL, 0.93 mmol), and triethylamine (0.13 mL, 0.93 mmol) were combined in CH2Cl2 (2.1 mL), and the reaction was stirred at room temperature for 2 hours. Analytical LCMS indicated that starting material was still present, so additional benzyl chloroformate (0.13 mL, 0.93 mmol), and triethylamine (0.13 mL, 0.93 mmol) were added, and the reaction was stirred for 1 hour. Starting material was still present, so an aqueous work-up was performed, and the residue was dissolved in DMF and cooled to 0° C. Sodium hydride (60% in mineral oil; 0.030 g, 0.75 mmol) was added, followed by benzyl chloroformate (0.13 mL, 0.93 mmol), and the reaction was stirred for 20 minutes. The mixture was worked up with CH2Cl2 and H2O, and the organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography to give the title compound.

reactant | {6-Fluoro-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}acetic acid methyl ester | 0.62 mmol, 0.26 g | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CNCC(F)(F)F)=O | C19H16F7NO2
reactant | benzyl chloroformate | 0.93 mmol, 0.13 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 0.93 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.93 mmol, 0.13 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 0.93 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | Sodium hydride | 0.75 mmol, 0.030 g | [H-].[Na+]
reactant | benzyl chloroformate | 0.93 mmol, 0.13 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 2.1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (2′-{[Benzyloxycarbonyl-(2,2,2-trifluoro-ethyl)-amino]-methyl}-6-fluoro-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CN(CC(F)(F)F)C(=O)OCC1=CC=CC=C1)=O | C27H22F7NO4
